US07425551B2
a) (S)—N—[(S)-5-(2-Benzyloxy-ethyl)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl]-2-hydroxy-propionamide
(S)-7-Amino-5-(2-benzyloxy-ethyl)-5H,7H-dibenzo[b,d]azepin-6-one (50 mg, 0.14 mmol) and L-(+)-lactic acid (14 mg, 0.15 mmol) were dissolved in THF (2 ml), cooled to 0° C. and under exclusion of moisture subsequently treated with 1-hydroxybenzotriazole (21 mg, 0.15 mmol), EDC (33 mg, 0.17 mmol) and N-diisopropyl-ethylamine (0.05 ml, 0.28 mmol). After stirring for 30 min. at 0° C. and 3 h at ambient temperature, the mixture was diluted with water and ethyl acetate (10 ml each), the phases separated and the organic layer extracted with water, 1N aqueous HCl and saturated aqueous NaCl. After drying over magnesium sulphate and evaporation of the solvent, the title compound was afforded as colourless oil (98%). MS: m/e=431(M−H+).

reactant | (S)-7-Amino-5-(2-benzyloxy-ethyl)-5H,7H-dibenzo[b,d]azepin-6-one | 0.14 mmol, 50 mg | N[C@H]1C2=C(C3=C(N(C1=O)CCOCC1=CC=CC=C1)C=CC=C3)C=CC=C2 | C23H22N2O2
reactant | L-(+)-lactic acid | 0.15 mmol, 14 mg | C([C@@H](O)C)(=O)O | C3H6O3
reactant | 1-hydroxybenzotriazole | 0.15 mmol, 21 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | EDC | 0.17 mmol, 33 mg
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | (S)—N—[(S)-5-(2-Benzyloxy-ethyl)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl]-2-hydroxy-propionamide | C(C1=CC=CC=C1)OCCN1C2=C(C3=C([C@@H](C1=O)NC([C@H](C)O)=O)C=CC=C3)C=CC=C2 | C26H26N2O4
